US09193741B2
Synthesis of 1-(4-(2-(4-fluorophenyl)thiazolo[5,4-d]pyrimidin-7-yl)piperazin-1-yl)-2-(4-chlorophenoxy)ethanone
This compound was prepared from 2-(4-fluorophenyl)-7-(piperazin-1-yl)thiazolo[5,4-d]pyrimidine using 4-chlorophenoxyacetic acid in a yield of 48%, according to the procedure for the synthesis of example 50.

reactant | 2-(4-fluorophenyl)-7-(piperazin-1-yl)thiazolo[5,4-d]pyrimidine | FC1=CC=C(C=C1)C=1SC=2N=CN=C(C2N1)N1CCNCC1 | C15H14FN5S
reactant | 4-chlorophenoxyacetic acid | ClC1=CC=C(OCC(=O)O)C=C1 | C8H7ClO3
product | 1-(4-(2-(4-fluorophenyl)thiazolo[5,4-d]pyrimidin-7-yl)piperazin-1-yl)-2-(4-chlorophenoxy)ethanone | yield of 48% | FC1=CC=C(C=C1)C=1SC=2N=CN=C(C2N1)N1CCN(CC1)C(COC1=CC=C(C=C1)Cl)=O | C23H19ClFN5O2S
